### PR TITLE
[Merged by Bors] - chore(AlgebraicTopology/DoldKan): remove `erw`s

### PR DESCRIPTION
**Pull request by yuanyi-350**
- replaces the `erw [ChainComplex.of_d]` step in `Hσ_eq_zero` with the direct rewrite lemma `AlternatingFaceMapComplex.obj_d_eq`

Extracted from #38415

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/AlgebraicTopology/DoldKan/Homotopies.lean [hunk 1]
```diff
@@ -134,13 +134,11 @@ theorem Hσ_eq_zero (q : ℕ) : (Hσ q : K[X] ⟶ K[X]).f 0 = 0 := by
...
-    -- This `erw` is needed to show `0 + 1 = 1`.
-    erw [ChainComplex.of_d]
-    rw [AlternatingFaceMapComplex.objD, Fin.sum_univ_two, Fin.val_zero, Fin.val_one, pow_zero,
-      pow_one, one_smul, neg_smul, one_smul, comp_add, comp_neg, add_neg_eq_zero,
-      ← Fin.succ_zero_eq_one, δ_comp_σ_succ, δ_comp_σ_self' X (by rw [Fin.castSucc_zero'])]
+  · rw [hσ'_eq (show 0 = 0 + 0 by rfl) (c_mk 1 0 rfl), pow_zero, Fin.mk_zero, one_zsmul,
+      eqToHom_refl, Category.comp_id, AlternatingFaceMapComplex.obj_d_eq, Fin.sum_univ_two,
+      Fin.val_zero, Fin.val_one, pow_zero, pow_one, one_smul, neg_smul, one_smul, comp_add,
+      comp_neg, add_neg_eq_zero, ← Fin.succ_zero_eq_one, δ_comp_σ_succ,
+      δ_comp_σ_self' X (by rw [Fin.castSucc_zero'])]
```
Comment (dagurtomas) [inline Mathlib/AlgebraicTopology/DoldKan/Homotopies.lean]:
```suggestion
  · rw [hσ'_eq (show 0 = 0 + 0 by rfl) (c_mk 1 0 rfl)]
    suffices X.σ 0 ≫ X.δ 0 + -X.σ 0 ≫ X.δ 1 = 0 by simpa
    rw [← Fin.succ_zero_eq_one, δ_comp_σ_succ, δ_comp_σ_self' X (by rw [Fin.castSucc_zero'])]
    simp
```
Here is a better automated proof, that also gets rid of the `respectTransparency false`

Comment (dagurtomas) [reply Mathlib/AlgebraicTopology/DoldKan/Homotopies.lean]: This even works:

```lean
suffices X.σ 0 ≫ X.δ 0 + -X.σ 0 ≫ X.δ 1 = 0 by simpa [hσ'_eq]
rw [← Fin.succ_zero_eq_one, δ_comp_σ_succ, δ_comp_σ_self' X (by rw [Fin.castSucc_zero'])]
simp
```

**Comment by dagurtomas** [comment]
While you're at it, you can get rid of the `respectTransparency false` in the next lemma by modifying the proof to:

```lean
  obtain rfl : n + 1 = m := hnm
  -- `simp? [hσ', hσ]` says:
  simp only [AlternatingFaceMapComplex.obj_X, hσ', hσ, Int.reduceNeg, eqToHom_refl, comp_id]
  split_ifs
  · rw [zero_comp, comp_zero]
  · simp
```

There is probably more that can be done in this file

**Comment by joelriou** [comment]
Thanks!

bors merge
